US06028035
1.63 g (0.017 mol) of ethoxyamine hydrochloride and 1.15 g (0.0085 mol) of finely pulverulent potassium carbonate were stirred for 1 hour in 60 ml of dry methanol. 4.00 g (0.015 mol) of 2-chloro-3-formyl-4-methylsulfonylbenzoic acid in 40 ml of methanol were subsequently added. After the mixture was stirred for 12 hours at room temperature, the solvent was removed, the residue was taken up in ethyl acetate, and the organic phase was washed four times with water. After the mixture had been dried and the solvent distilled off, 3.60 g of 2-chloro-3-ethoxyiminomethyl-4-methylsulfonylbenzoic acid were obtained (78% yield).

reactant | ethoxyamine hydrochloride | 0.017 mol, 1.63 g | Cl.C(C)ON
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-3-formyl-4-methylsulfonylbenzoic acid | 0.015 mol, 4.00 g | ClC1=C(C(=O)O)C=CC(=C1C=O)S(=O)(=O)C | C9H7ClO5S
solvent | methanol | 60 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | 2-chloro-3-ethoxyiminomethyl-4-methylsulfonylbenzoic acid | 3.60 g, 78% yield | ClC1=C(C(=O)O)C=CC(=C1C=NOCC)S(=O)(=O)C | C11H12ClNO5S
